US08304546B2
A 4N hydrogen chloride ethyl acetate solution (5 ml) was added to an ethanol solution (5 ml) of tert-butyl((S)-1-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethylcarbamoyl}-2-hydroxyethyl)carbamate (330 mg, 0.6 mmol) and stirred at room temperature for 14 hours. The resulting mixture was concentrated under reduced pressure. Water was added to the residue, which was then washed with ethyl acetate. A 2N aqueous sodium hydroxide solution (6 ml) was added to the water layer to adjust its pH to 11, followed by extraction with dichloromethane. The thus-obtained organic layer was washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified using silica gel column chromatography (dichloromethane:methanol=20:1→15:1). The purified product was concentrated under reduced pressure, the residue was dissolved in ethanol (3 ml) and ethyl acetate (3 ml), and a 4N hydrogen chloride ethylacetate solution (0.1 ml) was then added thereto. The mixture was stirred and concentrated to dryness under reduced pressure, and recrystallized from ethyl acetate, giving a white powder of (S)-2-amino-N-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethyl}-3-hydroxypropionamide hydrochloride (145 mg, yield: 50%).

reactant | hydrogen chloride ethyl acetate | 4N, 5 ml | C(C)OC(C)=O.Cl
reactant | tert-butyl((S)-1-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethylcarbamoyl}-2-hydroxyethyl)carbamate | 0.6 mmol, 330 mg | C(C)(C)(C)OC(N[C@@H](CO)C(NCCN1C=C(C(C2=C(C=CC(=C12)OCCC)F)=O)C1=CC=C(C=C1)OC)=O)=O | C29H36FN3O7
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (S)-2-amino-N-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethyl}-3-hydroxypropionamide hydrochloride | 145 mg, yield: 50% | Cl.N[C@H](C(=O)NCCN1C=C(C(C2=C(C=CC(=C12)OCCC)F)=O)C1=CC=C(C=C1)OC)CO | InChI=1S/C24H28FN3O5.ClH/c1-3-12-33-20-9-8-18(25)21-22(20)28(11-10-27-24(31)19(26)14-29)13-17(23(21)30)15-4-6-16(32-2)7-5-15;/h4-9,13,19,29H,3,10-12,14,26H2,1-2H3,(H,27,31);1H/t19-;/m0./s1
